US06864279B2
To a solution of 4-hydroxy-chromen-2-one (2.0 g) and ethyl 2-bromobutyrate (2 mL) in DMF was added anhydrous potassium carbonate (8.5 g). The resulting reaction mixture was stirred at room temperature for 72 hours, then diluted with water and extracted with EtOAc. The organic layer was washed with saturated aqueous sodium bicarbonate, dried over MgSO4 and conc. in vacuo to provide colorless oil, which was purified by column chromatography to give 2-(4-Hydroxy-2-oxo-2H-chromen-3-yl)-butyric acid ethyl ester as a white solid, MS: 275[M-H].

reactant | 4-hydroxy-chromen-2-one | 2.0 g | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
reactant | ethyl 2-bromobutyrate | 2 mL | BrC(C(=O)OCC)CC | C6H11BrO2
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-Hydroxy-2-oxo-2H-chromen-3-yl)-butyric acid ethyl ester | C(C)OC(C(CC)C=1C(OC2=CC=CC=C2C1O)=O)=O | C15H16O5
